US05872136
Step D: 1-(2-(3-Trifluoromethoxyphenyl)-pyrid-5-ylmethyl)-5-(4-cyanobenzyl)imidazole hvdrochloride salt
To a solution of 2-(3-trifluoromethoxyphenyl)-5-hydroxymethylpyridine (66 mg, 0.25 mmol), diisopropylethylamine (0.085 mL, 0.49 mmol), and 1-trityl-4-(4-cyanobenzyl)imidazole (105 mg, 0.25 mmol) in dichloromethane (1.4 mL) at -78° C. was added trifluoromethanesulfonic anhydride (0.041 mL, 0.25 mmol) and the mixture stirred at -78° C. for 1 hour. The reaction was allowed to warm to ambient temperature and stirred for 4 hours. The solvent was evaporated in vacuo. The residue was dissolved in methanol (15 mL), heated at reflux for 1 hour, and the solvent evaporated in vacuo. The residue was partitioned between dichloromethane and sat. aq. Na2CO3 solution. The organic layer was dried, (Na2SO4) and the solvent evaporated in vacuo. The residue was chromatographed (Silica gel, 3% MeOH in CH2Cl2). The amine was converted to the HCl salt by treatment with 1.0M HCl in aqueous acetonitrile. Evaporation of the solvent in vacuo afforded the title compound as a white solid.

reactant | 2-(3-trifluoromethoxyphenyl)-5-hydroxymethylpyridine | 0.25 mmol, 66 mg | FC(OC=1C=C(C=CC1)C1=NC=C(C=C1)CO)(F)F | C13H10F3NO2
reactant | diisopropylethylamine | 0.49 mmol, 0.085 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-trityl-4-(4-cyanobenzyl)imidazole | 0.25 mmol, 105 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)CC1=CC=C(C=C1)C#N | C30H23N3
reactant | trifluoromethanesulfonic anhydride | 0.25 mmol, 0.041 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | dichloromethane | 1.4 mL | ClCCl | CH2Cl2
product | 1-(2-(3-Trifluoromethoxyphenyl)-pyrid-5-ylmethyl)-5-(4-cyanobenzyl)imidazole hvdrochloride salt | Cl.FC(OC=1C=C(C=CC1)C1=NC=C(C=C1)CN1C=NC=C1CC1=CC=C(C=C1)C#N)(F)F | InChI=1S/C24H17F3N4O.ClH/c25-24(26,27)32-22-3-1-2-20(11-22)23-9-8-19(13-30-23)15-31-16-29-14-21(31)10-17-4-6-18(12-28)7-5-17;/h1-9,11,13-14,16H,10,15H2;1H
